US05811459
4-[3-(2-benzyloxyphenyl)propyl]-N-[3-hydroxypropionyl]benzene amine
Propiolactone (0.23 ml) was added to a mixture of 4-[3-(2-benzyloxyphenyl]propyl]benzeneamine hydrochloride (1.26 g) and triethylamine (0.5 ml) in methylene chloride (10 ml) and the mixture was stirred for 18 hours. A further equivalent of propiolactone (0.23 ml) was added and stirring continued for a further 24 hours. The reaction mixture was concentrated and the residue was subjected to flash chromatography on silica eluted with a stepwise gradient of methanol in methylene chloride. The fractions eluting with 5% methanol in methylene chloride were collected, concentrated and subjected to chromatography again, eluting with ethyl acetate to give, after crystallisation from dichloromethane/hexane (1:20 v/v) 4-[3-(2-benzyloxyphenyl)propyl]-N-(3-hydroxypropionyl]benzene amine m.p. 109°-110°, 0.22 g (15%).

reactant | Propiolactone | 0.23 ml | C1(CCO1)=O | C3H4O2
reactant | 4-[3-(2-benzyloxyphenyl]propyl]benzeneamine hydrochloride | 1.26 g | Cl.C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)N
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | propiolactone | 0.23 ml | C1(CCO1)=O | C3H4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-benzyloxyphenyl)propyl]-N-[3-hydroxypropionyl]benzene amine | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)NC(CCO)=O | C25H27NO3
